US07723352B2
2,3-Dimethyl-4-phenyl-2H-isoquinolin-1-one
To an isopropanol/dry ice cooled solution of N-Methyl-2-(phenylmethyl) benzamide (1.00 g, 4.44 mmol) in THF (20 mL) under argon was added n-butyllithium solution (2.5M, 4.44 mL, 11.1 mmol) dropwise. After 10 min. neat acetyl chloride (0.447 mL, 6.66 mmol) was slowly added to the reaction solution. The contents of the reaction flask were allowed to warm to room temperature and after 2 h the reaction was quenched with saturated ammonium chloride. The mixture was extracted with ether (3×) and then the combined organic portions were washed with brine and dried with anhydrous sodium sulfate. Filtration followed by evaporation of solvent in vacuo gave the crude product which was subjected to flash column chromatography (hexane:ethyl acetate 70:30 then 50:50) to afford the title compound as a white solid.

reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
reactant | N-Methyl-2-(phenylmethyl) benzamide | 4.44 mmol, 1.00 g | CNC(C1=C(C=CC=C1)CC1=CC=CC=C1)=O | C15H15NO
reactant | n-butyllithium | 11.1 mmol, 2.5M, 4.44 mL | C(CCC)[Li]
reactant | acetyl chloride | 6.66 mmol, 0.447 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2,3-Dimethyl-4-phenyl-2H-isoquinolin-1-one | CN1C(C2=CC=CC=C2C(=C1C)C1=CC=CC=C1)=O | C17H15NO
